US07626030B2
5-(6,7-Dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid cyclopropylmethyl-amide
To a solution of 5-(6,7-dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid pentafluorophenyl ester (0.5 g, above) in 5 mL of THF was added cyclopropylmethylamine (0.175 g, 2.46 mmol, Aldrich) and resulting solution was stirred at RT for 8 h. The mixture was concentrated in vacuo. The residue was diluted with 50 mL of EtOAc and washed with 20 mL of satd. NaHCO3 followed by 20 mL of brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was purified by silica gel column chromatography (30% to 100% EtOAc/hexane) to afford white solid as desired product. MS (ESI pos. ion) m/z: 418 (M+H). Calc'd Exact Mass for C24H23N3O4: 417.46.

reactant | 5-(6,7-dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid pentafluorophenyl ester | 0.5 g | FC1=C(C(=C(C(=C1OC(=O)C=1NC2=CC=C(C=C2C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)F)F)F)F | C26H15F5N2O5
reactant | cyclopropylmethylamine | 2.46 mmol, 0.175 g | C1(CC1)CN | C4H9N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(6,7-Dimethoxy-quinolin-4-yloxy)-1H-indole-2-carboxylic acid cyclopropylmethyl-amide | C1(CC1)CNC(=O)C=1NC2=CC=C(C=C2C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H23N3O4
